US04409214
A mixture of benzhydryl 7-[2-tert-butoxycarbonylmethoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (19.0 g) and conc. hydrochloric acid (11.6 g) in methanol (380 ml) was stirred at ambient temperature for 15 minutes. After addition of water (200 ml), the reaction mixture was neutralized with sodium bicarbonate, followed by removing the methanol under reduced pressure. The resultant aqueous solution was extracted three times with ethyl acetate, and the combined extract was washed with water and an aqueous solution of sodium chloride, and then dried over anhydrous magnesium sulfate. Removal of the solvent gave an oil, which was pulverized with diisopropyl ether to obtain benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (15.3 g).

reactant | benzhydryl 7-[2-tert-butoxycarbonylmethoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate | 19.0 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC=O | C34H33N5O8S2
reactant | hydrochloric acid | 11.6 g | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | methanol | 380 ml | CO | CH4O
solvent | water | 200 ml | O | H2O
product | benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate | 15.3 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC(=O)OC(C)(C)C | C33H33N5O7S2
